data/mechanism_extracts/JOC/10.1021_acs.joc.2c03020_sup_1.json
{"doi": "10.1021_acs.joc.2c03020_sup_1", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical halo-acyloxylation of vinylarenes with carboxylic acids and tetrabutylammonium halides (nBu4NX) as halogen source to give 1,2-halo-benzoate products via halogen-radical addition.", "mechanism_family": ["radical_anodic", "mediator_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of halide (I-, Br-, Cl- from nBu4NX) to halogen radical/X2; halide is preferentially oxidized over the styrene substrate (Eox of nBu4NI 0.373 V, nBu4NBr 0.686 V, nBu4NCl 0.815 V vs SCE, all below 1a at 1.413 V).", "key_intermediates": [{"name": "halogen radical (I•, Br•, Cl•) generated by anodic oxidation of halide", "smiles": null, "role": "reactive"}, {"name": "benzylic carbon radical from X• addition to vinylarene (cyclopropyl radical clock substrate 2a gives intact cyclopropyl-CR2-X adduct Int-1/Int-2/Int-3)", "smiles": null, "role": "transient"}, {"name": "ring-opened homoallyl/allyl halide radical-clock product (e.g., 56, 58) indicating radical intermediate that partly ring-opens with Br/Cl", "smiles": null, "role": "transient"}, {"name": "benzylic cation after further oxidation of benzylic radical", "smiles": null, "role": "reactive"}, {"name": "benzoate (PhCO2-) from deprotonation of benzoic acid 1b, traps cation to form ester product", "smiles": "O=C([O-])c1ccccc1", "role": "reactive"}], "electron_flow": "Anode oxidizes halide (X-) to X•; X• adds to the vinylarene to give a benzylic C-radical (trapped by DMPO; confirmed by cyclopropyl radical clock giving ring-opened products with Br/Cl); this radical is further oxidized at the anode to a benzylic cation that is captured by the carboxylate to deliver the β-halo benzoate.", "rate_determining_step": null, "probe_reagents": [{"name": "(1-cyclopropylvinyl)benzene (2a, radical clock)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "With nBu4NI: only non-ring-opened product 54 (56%) via Int-1, indicating fast trapping of benzylic radical by I. With nBu4NBr: 55 (12%) non-opened plus 56 (40%) ring-opened homoallyl bromide, showing radical intermediate (Int-2). With nBu4NCl: 57 (20%) plus ring-opened 58 (32%), consistent with longer-lived radical (Int-3)."}, {"name": "DMPO (spin trap)", "smiles": "CC1(C)CCC=[N+]1[O-]", "purpose": "radical_trap", "observation": "EPR signals observed for nBu4NI alone, nBu4NBr alone, and for 1a+1b+nBu4NX systems under electrolysis (Figure S4 A–D), confirming radical intermediates."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "EPR", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Halide identity controls radical lifetime: I gives clean closed-ring product (fast trap), while Br and Cl give increasing amounts of ring-opened radical-clock products, indicating slower radical capture and more pronounced free-radical character with Br/Cl. CV shows halides are oxidized preferentially over the styrene, supporting a halide-mediator pathway rather than direct alkene oxidation."}
